US04910218
A mixture of crude 4-aza-3,3-bis-(methoxymethyl)-1-oxaspiro[4.5]decane (66A, 40.0 g, 0.174 mol) and 6N HCl (100 mL) was refluxed for 1 h. The mixture was cooled and washed with Et2O (3×100 mL). The volume of the aqueous layer was reduced to 25 mL by rotary evaporation, basified with excess 50% NaOH solution and extracted with a mixture of Et2O/CH2Cl2 (3:1, 2×200 mL). The organic layers were combined, the solvent removed and the resulting crude oil distilled to give 16.4 g (63.2%) of 2-amino-2,2-bis-(methoxymethyl)ethanol, (bp 109°-110°/15 mm). This material also contains some of the --NCH3 compound. This material was further purified by conversion to the --NCH2Ph derivative. Thus, a mixture of crude 2-amino-2,2-bis-(methoxymethyl)ethanol (15.0 g, ~0.10 mol), benzaldehyde (Aldrich, 7.42 g, 0.07 mol), NaBH3CN (Aldrich, 4.4 g, 0.07 mol) and CH3OH (100 mL) was stirred at 5° for 15 min then at RT for 2 h. H2O (50 mL) then excess 12N HCl was then added to the flask. The volume of the mixture was reduced to 50 mL by rotary evaporation. The mixture was washed with Et2O (100 mL), basified with 50% NaOH solution and extracted with Et2O (200 mL). After removal of the solvent the crude oil (15.54 g) was distilled to give 11.64 g of 2-benzylamino-2,2-bis-(methoxymethyl)ethanol, bp 118°-119°/0.10 mm, shown to 99.7% pure by GLC (10% OV-17 on Chromasorb W at 250°), (C,H,N). A mixture of 2-benzylamino-2,2-bis-(methoxymethyl)ethanol (8.25 g, 0.0345 mol), 5% Pd/C (Aldrich, 1.0 g), abs. EtOH (250 mL) and glacial HOAc (25 mL) was hydrogenated in a Parr apparatus at 40 psi for 15 min. The catalyst was removed by filtration through a pad of Celite® and the solvent removed to give the crude product which after crystallization from abs. EtOH gave a 48.6% yield of 2-amino-2,2-bis-(methoxymethyl)ethanol acetate, mp 119.5°-120.5°, (C,H,N).

reactant | 2-amino-2,2-bis-(methoxymethyl)ethanol | ~0.10 mol, 15.0 g | NC(CO)(COC)COC | C6H15NO3
reactant | benzaldehyde | 0.07 mol, 7.42 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH3CN | 0.07 mol, 4.4 g | [BH3-]C#N.[Na+]
reactant | HCl | 12N | Cl | ClH
solvent | H2O | 50 mL | O | H2O
solvent | CH3OH | 100 mL | CO | CH4O
product | 2-benzylamino-2,2-bis-(methoxymethyl)ethanol | 11.64 g | C(C1=CC=CC=C1)NC(CO)(COC)COC | C13H21NO3
